* Z:\mnt\spice-netlists\LT3465A.asc
L1 IN N001 22µ
V1 IN 0 3.6
C1 OUT 0 .22µ
R1 N004 0 10
D1 OUT N002 NSPW500BS
D2 N002 N003 NSPW500BS
D3 N003 N005 NSPW500BS
D4 N005 N004 NSPW500BS
XU1 OUT 0 N004 IN IN N001 LT3465A
C2 IN 0 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .15m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT3465A -   2.4MHz White LED Driver with Built-in Schottky\nInput: 3.6V     Output: 20mA through four series white LEDs
.lib LT3465A.sub
.backanno
.end
