* Z:\mnt\spice-netlists\LT3467A.asc
V1 IN 0 5V
R1 OUT N002 113K
R2 N002 0 13.3K
L1 IN N001 10µ
Iload OUT 0 300m load
D1 N001 OUT MBR0520L
C3 N003 0 .001µ
C4 OUT N002 10p
C2 OUT 0 4.7µ
C1 IN 0 2.2µ
XU2 N001 0 N002 IN N003 IN LT3467A
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .5m startup
* LT3467A - 1.1A, 2.1MHz, Step-up DC/DC Converter With Integrated Soft-Start\nInput: 5V       Output: 12V @ 300mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT3467A.sub
.backanno
.end
