* Z:\mnt\spice-netlists\LT3494A.asc
V1 IN 0 3.6
L1 IN N001 15µ
C1 0 N002 .47µ
R1 OUT N003 2.05Meg
C2 OUT 0 4.7µ
XU1 N001 0 IN IN IN N003 OUT N002 LT3494A
Rload OUT 0 555
D1 N001 N002 MBR0520L
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT3494A - 380mA, µPower Low Noise Boost Converter With Output Disconnect\nInput: 3.6V       Output: 15V@27mA
.lib LT3494A.sub
.backanno
.end
