* Z:\mnt\spice-netlists\LT1931A_F01.asc
D1 N002 0 MBRS140
R1 N003 0 10K
R2 OUT N003 29.4K
V1 IN 0 5
C1 N001 N002 1µ
L1 IN N001 10µ
L2 OUT N002 10µ
C2 OUT N003 220p
C3 IN 0 4.7µ
C4 OUT 0 22µ
XU1 N001 0 N003 IN IN LT1931A
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
K1 L1 L2 1
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LT1931 - 350mA Inverting DC/DC Converter\n5V to -5V Inverting Converter Using Coupled Inductors\nInput: 5V     Output: -5V @ 350mA
.lib LT1931A.sub
.backanno
.end
