* Z:\mnt\spice-netlists\LT3971A_TA07.asc
R1 N005 0 49.9K
R2 N007 0 562K
L1 N006 OUT 4.7µ
R3 OUT N007 1Meg
C1 OUT 0 22µ
Rout OUT 0 2.54
V1 IN 0 12
C2 N004 N006 .47µ
C3 N002 0 .001µ
C4 IN 0 4.7µ
C5 OUT N007 10p
D1 0 N006 SS24
R4 N003 N002 100K
XU1 OUT N004 N006 IN IN N007 N003 N005 N001 MP_01 0 LT3971
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
* LT3971A - 38V, 1.3A 2MHz Step-Down Regulator with 2.2µA Quiescent Current\n3.3V Step-Down Converter\nInput: 4.5V to 38V     Output: 3.3V @ 1.3A, Fsw = 800kHz
.lib LT3971.sub
.backanno
.end
