* Z:\mnt\spice-netlists\LT1308B.asc
C1 N002 0 100p
V1 IN 0 5
R1 OUT N005 100K
R2 N005 0 11.3K
R3 N003 N002 47K
L1 IN N001 4.7µ
I1 OUT 0 500m load
D1 N001 OUT MBRS340
XU1 N003 N004 IN 0 N001 IN N006 N007 LT1308B
C2 OUT 0 10µ
C3 IN 0 4.7µ
C4 OUT N005 330p
R4 N005 N004 10K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT1308B -   600kHz µPower Step-Up Switching Regulator\nInput: 5V     Output: 12V @ 500mA
.lib LT1308B.sub
.backanno
.end
