* Z:\mnt\spice-netlists\LT1071HV.asc
I1 OUT 0 0.7
L1 IN N001 150µ
D1 N001 OUT MBRS130L
R1 OUT N002 10.7K
R2 N002 0 1.24K
R3 N003 N004 1K
C1 OUT 0 1000µ
C2 N004 0 1µ
V1 IN 0 5
XU1 N003 N002 0 N001 IN LT1071
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 30m startup
* LT1071HV - 2.5A High Efficiency Switching Regulator\nInput: 5V     Output: 12V @ 0.7A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1071.sub
.backanno
.end
