* Z:\mnt\spice-netlists\LT1076HV.asc
L2 N001 OUT 68µ
D1 0 N001 MBRS340
V2 IN 0 25
R4 OUT N002 2.74K
R5 N002 0 2.21K
C12 N004 N003 .022µ
C13 OUT 0 220µ
R1 0 N004 10K
XU1 IN N001 NC_01 0 N002 N003 NC_02 LT1076
I1 OUT 0 1.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
* LT1076HV - Step Down Switching Regulator\nInput: 25V      Output: 5V @ 1.5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1076.sub
.backanno
.end
