* Z:\mnt\spice-netlists\LT1172HV.asc
L1 IN N001 100µ
D1 N001 OUT MBRS340
R1 OUT N002 10.7K
R2 N002 0 1.24K
R3 N003 N004 3.3K
C1 OUT 0 220µ
C2 N004 0 0.22µ
V1 IN 0 5
XU1 N003 N002 0 N001 IN LT1172
I1 OUT 0 0.3 load
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 6m startup
* LT1172HV - 100kHz, 1.25A High Efficiency Switching Regulator\nInput: 5V      Output: 12V @ 300mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1172.sub
.backanno
.end
