* Z:\mnt\spice-netlists\LT1370HV.asc
Iload OUT 0 1.75 load
L1 IN N001 4.7µ
D1 N001 OUT MBR745
R1 OUT N003 53.6K
R2 N003 0 6.19K
R3 N005 N006 2K
C2 OUT 0 44µ
C4 N006 0 0.047µ
V1 IN 0 5
XU1 N005 N003 N002 0 N001 N004 IN LT1370
C3 N005 0 4700p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* LT1370HV - 500kHz High Efficiency 6A Switching Regulator\nInput: 5V  Output: 12V @ 1.75A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1370.sub
.backanno
.end
